US09328110B2
By the general method described in Step 6 of Example 1, 6-(3-nitroquinolin-4-ylamino)-1-phenylhexan-1-ol (4.0 g, 11 mmol) was oxidized with DMSO (1.28 g, 16.4 mmol), oxalyl chloride (1.53 g, 12.0 mmol), and triethylamine (3.32 g, 32.8 mmol) to provide 6-(3-nitroquinolin-4-ylamino)-1-phenylhexan-1-one (2.27 g) as light orange crystals after recrystallization from ethyl acetate.

reactant | 6-(3-nitroquinolin-4-ylamino)-1-phenylhexan-1-ol | 11 mmol, 4.0 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCCCCC(O)C1=CC=CC=C1 | C21H23N3O3
reactant | DMSO | 16.4 mmol, 1.28 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 12.0 mmol, 1.53 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 32.8 mmol, 3.32 g | C(C)N(CC)CC | C6H15N
product | 6-(3-nitroquinolin-4-ylamino)-1-phenylhexan-1-one | 2.27 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCCCCC(=O)C1=CC=CC=C1 | C21H21N3O3
